US08034812B2
Production of N-[6-(4-amino-3-nitrophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
A mixture of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (656 mg, 2.00 mmol), 4-amino-3-nitrophenol (616 mg, 4.00 mmol), potassium carbonate (411 mg, 3.00 mmol) and N,N-dimethylformamide (6.0 mL) was stirred at 150° C. for 3 hr. After allowing the reaction mixture to cool to room temperature, ethyl acetate (100 mL), tetrahydrofuran (40 mL) and water (40 mL) were added to the mixture, and the insoluble material was filtered through celite. The organic layer was collected from the filtrate, washed with saturated aqueous sodium hydrogencarbonate solution, dried over anhydrous magnesium sulfate, and filtrated. Dichloromethane (20 mL) was added to the residue, and the precipitate was collected by filtration to give the title compound (367 mg, 52%). The filtrate was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/19→ethyl acetate alone) to give the title compound (125 mg, 18%) as a white solid.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 2.00 mmol, 656 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 4-amino-3-nitrophenol | 4.00 mmol, 616 mg | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | potassium carbonate | 3.00 mmol, 411 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-[6-(4-amino-3-nitrophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 367 mg, 52% | NC1=C(C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1)[N+](=O)[O-] | C16H14N6O4
